US07151105B2
Step 1: 5-(Diethoxymethyl)-3-(3-fluorophenyl)-1-methyl-1H-1,2,4-triazole
MeONa (2.35 g, 41 mmol) was added to a stirred solution of 3-fluorobenzonitrile (50.0 g, 413 mmol) in methanol (300 mL). The mixture was stirred at room temperature for 3 days and concentrated in vacuo. The residue was dissolved in ether (300 mL), washed with water (2×150 mL), brine (150 mL), dried with Na2SO4, and concentrated in vacuo to afford 62.8 g (99%) of methyl 3-fluorobenzenecarboximidoate. Methylhydrazine (21.8 mL, 410 n mmol) was added to a stirred solution of methyl 3-fluorobenzenecarboximidoate (62.8 g, 410 mmol) in THF (350 mL). The mixture was stirred at room temperature for 3 days, then. Then methyl 2,2-diethoxyethanimidoate (66.1 g, 410 mmol) and acetic acid (37.5 mL, 656 mmol) were added. The mixture was stirred for 24 h. The reaction was diluted with CH2Cl2 (500 mL), and the formed precipitate was filtered off. The filtrate was washed with 10% citric acid (2×200 mL), water (300 mL), brine (200 mL), dried with Na2SO4, and concentrated in vacuo. The residue was subjected to flash chromatography on silica gel using 1% MeOH/CHCl3 as eluent to give 24.0 g (21%) of the title product.

reactant | Methylhydrazine | 21.8 mL | CNN | CH6N2
reactant | methyl 3-fluorobenzenecarboximidoate | 410 mmol, 62.8 g | FC=1C=C(C=CC1)C(OC)=N | C8H8FNO
reactant | methyl 2,2-diethoxyethanimidoate | 410 mmol, 66.1 g | C(C)OC(C(OC)=N)OCC | C7H15NO3
reactant | acetic acid | 656 mmol, 37.5 mL | C(C)(=O)O | C2H4O2
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 5-(Diethoxymethyl)-3-(3-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 24.0 g, 21% | C(C)OC(C1=NC(=NN1C)C1=CC(=CC=C1)F)OCC | C14H18FN3O2
